2104-09-03 06:03:00 Physician Resident Progress Note
24 Hour Events:
 ENDOSCOPY - At [**2104-9-2**] 07:25 [**Hospital **]
   Transferred to MICU for melena
   Had EGD that showed diffuse ulceration. S/p epi injection.
   No further dark stools overnight.
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2104-9-2**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-9-3**] 03:54 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-3**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 98 (92 - 113) bpm
   BP: 126/65(78) {118/44(63) - 152/65(85)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,802 mL
                                                                    658 mL
   PO:
             TF:
   IVF:
                                                                  1,802 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    280 mL
   Urine:
                                                                    345 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,457 mL
                                                                    378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash: RLE erythema with skin sloughing 15x5cm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   521 K/uL
   9.1 g/dL
   116 mg/dL
   1.9 mg/dL
   19 mEq/L
   4.8 mEq/L
   70 mg/dL
   110 mEq/L
   136 mEq/L
   29.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2104-9-2**]  06:38 PM
                             [**2104-9-2**]  11:30 PM
                             [**2104-9-3**]  04:39 AM
   WBC
   14.3
   13.7
   11.0
   Hct
   33.3
   30.8
   29.2
   Plt
   548
   574
   521
   Cr
   1.9
   Glucose
   116
   Other labs: PT / PTT / INR:14.6/28.3/1.3, Lactic Acid:1.8 mmol/L,
   Ca++:7.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM, HTN presents with newly diagnosed portal
   hypertension, LLE cellulitis and transferred to the MICU for GI bleed.
   GI bleed: Pt developed black tarry stools on the floor. Upon arrival to
   MICU, he underwent EGD which was notable for diffuse superficial
   ulceration with stigmata of bleeding. Also notable for non bleeding
   varices.
   - Type and crossmatch 2 units
   - 2 large bore IVs
   - ADAT
 once on clears can start sucralfate
   - monitor HCT q 6hrs
   - IV PPI gtt
   - octreotide gtt
   - appreciate liver recs
   - transfuse for active bleeding or hct goal > 25
   .
   PUD: No report of taking high doses of NSAIDs. ? viral etiology. No
   toxic ingestions
   - IV PPI
   - sucralfate when tolerating po
   - f/u H. pylori
   - Avoid NSAIDs
   - consider biopsy after several days of PPI
   .
   Cellulitis: Debrided at bedside by plastics today. Etiology unclear,
   but appears similar to burn. No underlying abscess noted by plastics. ?
   whether this due to underlying vasculitis. [**Month (only) 11**] have underlying
   hepatitis with associated cryoglobulinemia. Also could be secondary to
   pyoderma gangrenosum. Will need to biopsy for further eval.
   - f/u cryoglobulins and hep serologies
   - continue zosyn and vanco to coverage
   - f/u cultures
   - Appreciate plastics and [**Doctor First Name **] recs, ID recs
   - monitor fever curve and wbc count
   - obtain wound cultures
   - dermatology consult today for bx
   - silvadine [**Hospital1 **]
   - will likely need to go to OR when stable for debridement
   .
   # Hypoxemia: ? pleural effusions, volume overload, less likely pna
   given CXR and low grade fevers. Likely atelectasis
   - CXR today
   - watch O2
   .
   Leukocytosis: Likely secondary to cellulitis
   - f/u blood and urine cx
   - monitor fever curve and wbc count
   - continue vanco zosyn
   - f/u ID recs
   .
   ARF: UNa less than 10. Likely prerenal. Fena 0.17. No evidence of
   hydronephrosis.  Also consider HRS given U Na < 10.
   - bolus 500 cc now
   - resend urine lytes, UA
   - monitor creatinine
   - renally dose meds
   - avoid nephrotoxins
   - IVFs to keep MAP> 65
   .
   Portal hypertension: Unclear etiology of liver disease. Per medical
   records no history of alcohol abuse. Ferritin elevated but probably in
   the setting of acute infection and less likely  to be secondary to iron
   overload. Borderline elevated AST is nonspecific.
   - f/u hep serologies, RF, [**Doctor First Name **], [**Last Name (un) 3056**], immunoglobulins
   - lactulose when taking PO
   - start nadolol today
   - monitor LFTs
   - appreciate liver recs
   .
   Elevated LFTs: Obstructive picture with high alk phos and hi Tbili
   mostly direct. No evidence of stones on ruq u/s.
   - trend LFTS
   Non anion gap acidosis: ? secondary to primary respiratory process vs.
   [**1-21**] saline, diarrhea, RTA
   - check urine anion gap
   .
   Tachycardia: Likely secondary to acute blood loss anemia.
   - bolus with IVFs
   - trend HCT
   - monitor UO
   - transfuse RBCs if HCT drop less than 25
   .
   Anemia: Hct slowly trending down
   - plan as above in GI bleeding
   - guiaic all stools
   .
   DM: continue ISS
   .
   HTN: hold nifedipine in setting of acute bleed, start nadolol
   .
   FEN: NPO, replete lytes PRN, IVFs
   .
   PPX: PPI, pneumoboot  (HEP SQ tomorrow), bowel reg prn
   ACCESS: 2 large bore IVs
   .
   CODE: FUll
   ICU Care
   Nutrition: NPO
 ADAT
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-9-2**] 06:15 PM
   18 Gauge - [**2104-9-3**] 03:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2104-09-03 09:39:00 Physician Attending Progress Note
Chief Complaint: Upper GI bleed. Cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fever to 100.7, tachycardic and hypertensive overnight, received IVF.
   No further black tarry stools. EGD with diffuse ulceration in the
   esophagus, stomach and duodenum,  with stigmata of recent bleeding,
   varices also seen, with no evidence of active bleeding from this. hct
   trended down to 29, wbc peaked at 14.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2104-9-2**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-9-3**] 03:54 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   HISS, sucralafate, octreotide drip, silvadene cream topical [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-3**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 96 (89 - 113) bpm
   BP: 128/54(71) {117/44(63) - 152/65(85)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,798 mL
                                                                  1,098 mL
   PO:
             TF:
   IVF:
                                                                  1,798 mL
                                                                  1,098 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    590 mL
   Urine:
                                                                    345 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   521 K/uL
   116 mg/dL
   1.9 mg/dL
   19 mEq/L
   4.8 mEq/L
   70 mg/dL
   110 mEq/L
   136 mEq/L
   29.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2104-9-2**]  06:38 PM
                             [**2104-9-2**]  11:30 PM
                             [**2104-9-3**]  04:39 AM
   WBC
   14.3
   13.7
   11.0
   Hct
   33.3
   30.8
   29.2
   Plt
   548
   574
   521
   Cr
   1.9
   Glucose
   116
   Other labs: PT / PTT / INR:14.6/28.3/1.3, Lactic Acid:1.8 mmol/L,
   Ca++:7.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 UGIB:
   Multiple ulcerations seen: H.pylori pending, if negative can consider
   checking gastrin level. He will get relook EGD and possible biopsy in
   several days. Will keep hct >25, and monitor hct q6hr. Start nadolol at
   low dose and titrate up slowly. Hold home nifedipine
 CIRRHOSIS OF LIVER, OTHER
   Unclear etiology, hep serologies, and schistosomiasis serologies
   pending. Start lactulose as he has mild encphealopathy.
 DIABETES MELLITUS (DM), TYPE II;
   continue HISS.
Cellulitis: vs cryoglobulimenmic vasculitis, vs pyoderma gangrenosum,
   not c/w nec fascitis per surgery
   continue vanc/zosyn, derm to see to day for possible biopsy. Plastics
   and surgery had been planing debridement when hemodynamically stable.
   f/y cryoglobulin level.
 ASCITES
   no evidence for SBP, when more hemodyanmically stable will start low
   dose lasix. On SBP prophylaxis with Zosyn aroudn time of GI bleed.
 Fever: f/u pan cultures
 ARF: Urine Na <5, c/w prerenal failure, given bolus 500 NS, will give
   albumin if Urine lytes still prerenal. Albumin 2.5. Send urine aniongap
   to r/o RTA.
   ICU Care
   Nutrition:
   Comments: start clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2104-9-2**] 06:15 PM
   18 Gauge - [**2104-9-3**] 03:59 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, may transfer to floor today if hemodynamics and hct
   remain stable.
   Total time spent: 30 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2104-9-3**] 15:05 ------

2104-09-04 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**9-3**]
   - had melena x 1, hct stable
   - urine anion gap consistent with RTA IV
   - started on clears
   - derm did a bx of wound at bedside
   - plastics will take pt to OR on Friday AM
   - ID- recs to check LENIs
   - Liver- recs to change PPI to [**Hospital1 **] IV, and octreotide to continue for
   24 more hours (stop on Thurs)
   - up dated his son
   - started nadolol
   - + [**Doctor First Name **] (titer pending), + smooth muscle AB, +HCV, +HAV
   - per son pt had schistosomaisis as a teenager
   - UA with many uric acid crystals
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-9-3**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-9-4**] 03:27 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2104-9-3**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.2
   HR: 75 (70 - 96) bpm
   BP: 121/51(67) {109/30(49) - 144/66(84)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,831 mL
                                                                    233 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,351 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    235 mL
   Urine:
                                                                  1,470 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,361 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   444 K/uL
   8.7 g/dL
   135 mg/dL
   1.9 mg/dL
   18 mEq/L
   4.5 mEq/L
   58 mg/dL
   110 mEq/L
   134 mEq/L
   27.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2104-9-2**]  06:38 PM
                             [**2104-9-2**]  11:30 PM
                             [**2104-9-3**]  04:39 AM
                             [**2104-9-3**]  09:55 AM
                             [**2104-9-3**]  02:11 PM
                             [**2104-9-4**]  03:42 AM
   WBC
   14.3
   13.7
   11.0
   10.9
   9.9
   Hct
   33.3
   30.8
   29.2
   31.9
   30.0
   27.2
   Plt
   548
   574
   521
   568
   444
   Cr
   1.9
   1.9
   Glucose
   116
   135
   Other labs: PT / PTT / INR:14.8/29.9/1.3, ALT / AST:16/35, Alk Phos / T
   Bili:118/1.2, Differential-Neuts:66.4 %, Lymph:26.8 %, Mono:5.6 %,
   Eos:0.5 %, Lactic Acid:1.8 mmol/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM, HTN presents with newly diagnosed portal
   hypertension, LLE cellulitis and transferred to the MICU for GI bleed.
   GI bleed: Melena overnight, Hct slightly down, has ulcers and varices
   - Maintain active T/S
   - Maintain 2 large bore IVs
   - ADAT
   - continue sucralfate
   - monitor HCT, will check at 10am and 6pm
   - IV PPI [**Hospital1 **]
   - octreotide gtt finish at noon
   - appreciate liver recs
   - transfuse for active bleeding or hct goal > 25
   .
   PUD: No report of taking high doses of NSAIDs. Possible h. pylori. No
   toxic ingestions
   - IV PPI
   - sucralfate
   - f/u H. pylori
   - Avoid NSAIDs
   - consider biopsy after several days of PPI
   .
   Cellulitis:. Etiology unclear. Possible vasculitis. [**Month (only) 11**] have underlying
   hepatitis with associated cryoglobulinemia. Also could be secondary to
   pyoderma gangrenosum. However is most likely cellulitis or possible
   infected burn.
   - f/u cryoglobulins
   - continue zosyn and vanco to cover
   - f/u cultures
   - Appreciate plastics and [**Doctor First Name **] recs, ID recs
   - monitor fever curve and wbc count
   - silvadine [**Hospital1 **]
   - OR on Friday
   .
   # Hypoxemia: ? pleural effusions, volume overload, less likely pna
   given CXR and low grade fevers. Likely atelectasis
   - watch O2
   .
   Leukocytosis: Likely secondary to cellulitis, Improving on Abx. Urine
   culture negative, blood cultures pending.
   - culture if spikes
   - monitor fever curve and wbc count
   - continue vanco zosyn
   - f/u ID recs
   .
   ARF: UNa less than 10. Likely prerenal. Fena 0.17. No evidence of
   hydronephrosis.  Also consider HRS as cause of prerenal, but BP higher
   than would expect. LOS fluid balance positive several liters and Cr not
   improving.  Also concerning for intrinsic renal diseae since has UA
   with uric acid crystals
   - will check uric acid level
   - challenge with albumin today
   - monitor creatinine
   - renally dose meds
   - avoid nephrotoxins
   - IVFs to keep MAP> 65
   .
   Portal hypertension: Unclear etiology of liver disease. Per medical
   records no history of alcohol abuse. Ferritin elevated but probably in
   the setting of acute infection and less likely  to be secondary to iron
   overload. Borderline elevated AST is nonspecific. [**Doctor First Name **] positive, RF
   mildly elevated, Sm Ab +, HCV are all positive
   - check Hep C viral load and genotype
   - lactulose to titrate to BMs TID
   - will continue nadolol
   - monitor LFTs
   - appreciate liver recs
   - will check HIV test
   .
   Elevated LFTs: Obstructive picture with high alk phos and hi Tbili
   mostly direct. No evidence of stones on ruq u/s.
   - trend LFTS
   Non anion gap acidosis: ? secondary to primary respiratory process vs.
   [**1-21**] saline, diarrhea, RTA
   - check urine anion gap
   .
   DM: continue ISS
   .
   HTN: hold nifedipine in setting of acute bleed, will continue with
   nadolol
   .
   FEN: ADAT, NPO at MN, replete lytes PRN, IVFs
   .
   PPX: PPI, pneumoboot, will start hep SC and hold tonght for procedreu.
   bowel reg prn
   ACCESS: 2 large bore IVs
   .
   CODE: FUll
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-9-3**] 03:59 AM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to liver service
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2104-9-4**] 12:01 ------

2104-09-04 10:16:00 Physician Attending Progress Note
Chief Complaint: GI bleed.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Another small melenotic stool yesterday. Anti sm-muscle antibody
   positive titer postions. Hepatitis C positive, [**Doctor First Name **] positive.
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-9-3**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-9-4**] 03:27 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2104-9-3**] 04:13 PM
   Other medications:
   sucralfate, silvadene, nadolol, lactulose,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-4**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.3
   HR: 71 (70 - 93) bpm
   BP: 117/44(62) {109/30(49) - 144/66(84)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,832 mL
                                                                    284 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,352 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    435 mL
   Urine:
                                                                  1,470 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,362 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: RA
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended, shifting dullness
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   444 K/uL
   135 mg/dL
   1.9 mg/dL
   18 mEq/L
   4.5 mEq/L
   58 mg/dL
   110 mEq/L
   134 mEq/L
   27.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2104-9-2**]  06:38 PM
                             [**2104-9-2**]  11:30 PM
                             [**2104-9-3**]  04:39 AM
                             [**2104-9-3**]  09:55 AM
                             [**2104-9-3**]  02:11 PM
                             [**2104-9-4**]  03:42 AM
   WBC
   14.3
   13.7
   11.0
   10.9
   9.9
   Hct
   33.3
   30.8
   29.2
   31.9
   30.0
   27.2
   Plt
   548
   574
   521
   568
   444
   Cr
   1.9
   1.9
   Glucose
   116
   135
   Other labs: PT / PTT / INR:14.8/29.9/1.3, ALT / AST:16/35, Alk Phos / T
   Bili:118/1.2, Differential-Neuts:66.4 %, Lymph:26.8 %, Mono:5.6 %,
   Eos:0.5 %, Lactic Acid:1.8 mmol/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):
   Continue octreotide drip, iv PPI to bolus form. transfuse for hct of
   27, likley requilibration, as minmal melanotic stool output. Replace
   PIV.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Creatinine stable but not improving, check uric acid level, albumin
   25mg as a challenge, Urine sodium remains low if he doesnot respond to
   albumin may warrant midodrine to be started.
 CIRRHOSIS OF LIVER, OTHER
   follow up serologies. continue lactulose, nadolol.
 DIABETES MELLITUS (DM), TYPE II
   continue sliding scale
 Cellulitis:
   f/u culture, f/u biopsy, continue wound care, to OR for debridment
   tomorrow. On vanc/zosyn
 ASCITES
   ICU Care
   Nutrition:
   Comments: Advance diet.
   Glycemic Control:  HISS
   Lines:
   18 Gauge - [**2104-9-3**] 03:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if repeat hct stable.
   Total time spent: 30 minutes

2104-09-05 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LENIs negative
   - ID recs: cont vanc/zosyn, HCV VL and genotype (sent), test for HIV
   (did not consent), f/u derm path, schisto Ab, cryo
   - repeat Hct this AM 31.5 --> 6 PM Hct 28.7
   - ADAT and NPO after MN for surgery, FFP ordered for surgery
   - d/c'ed octreotide gtt
   - liver recs: f/u biopsy results, f/u HCV VL
   - derm recs: get pathology, gram stain, culture in OR (ordered)
   - albumin x 1 given
   - Plastic recs: cont vanc/zosyn, f/u skin bx, cont silvadene/xerofrom,
   ACE, elevate RLE, ? on call to OR on Friday for debridement
   - Son gave patient Augmentin 1 gram at q 12 hours x 8 days, abx shot of
   1000mg, Byral for fever, 1alpha for kidneys after lunch 1 tab, spray
   also used leg.
   - Called out to Liver but no bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-9-4**] 08:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-9-5**] 03:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-9-4**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-5**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 78 (67 - 98) bpm
   BP: 124/52(69) {103/31(36) - 171/80(100)} mmHg
   RR: 11 (11 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,256 mL
                                                                    122 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    706 mL
                                                                    122 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,805 mL
                                                                    350 mL
   Urine:
                                                                  1,325 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -549 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   413 K/uL
   8.8 g/dL
   200 mg/dL
   1.9 mg/dL
   17 mEq/L
   5.0 mEq/L
   52 mg/dL
   109 mEq/L
   133 mEq/L
   27.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2104-9-2**]  06:38 PM
                             [**2104-9-2**]  11:30 PM
                             [**2104-9-3**]  04:39 AM
                             [**2104-9-3**]  09:55 AM
                             [**2104-9-3**]  02:11 PM
                             [**2104-9-4**]  03:42 AM
                             [**2104-9-4**]  10:18 AM
                             [**2104-9-4**]  05:50 PM
                             [**2104-9-5**]  03:17 AM
   WBC
   14.3
   13.7
   11.0
   10.9
   9.9
   9.4
   Hct
   33.3
   30.8
   29.2
   31.9
   30.0
   27.2
   31.5
   28.7
   27.0
   Plt
   548
   574
   521
   568
   444
   413
   Cr
   1.9
   1.9
   1.9
   Glucose
   116
   135
   200
   Other labs: PT / PTT / INR:15.1/30.7/1.3, ALT / AST:14/33, Alk Phos / T
   Bili:105/1.0, Differential-Neuts:66.4 %, Lymph:26.8 %, Mono:5.6 %,
   Eos:0.5 %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:210 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   66 yo M with PMH of DM, HTN presents with newly diagnosed portal
   hypertension, LLE cellulitis and transferred to the MICU for GI bleed.
   GI bleed: No melena O/N and Hct has leveled out at 28. Unable to call
   out to floor as no bed available.  Octreotide drip stopped yesterday.
   - Maintain active T/S
   - Maintain 2 large bore IVs
   - ADAT
   - continue sucralfate
   - monitor HCT Q12
   - IV PPI [**Hospital1 **]
   - appreciate liver recs
   - transfuse for active bleeding or hct goal > 25
   .
   PUD: No report of taking high doses of NSAIDs. Possible h. pylori. No
   toxic ingestions
   - IV PPI
   - sucralfate
   - f/u H. pylori
   - Avoid NSAIDs
   - consider biopsy after several days of PPI
   .
   Cellulitis:. Etiology unclear. Possible vasculitis. [**Month (only) 11**] have underlying
   hepatitis with associated cryoglobulinemia. Also could be secondary to
   pyoderma gangrenosum. However is most likely cellulitis or possible
   infected burn.    [**Month (only) 11**] need repeat debridement if worsens next week
   - f/u cryoglobulins
   - continue zosyn and vanco to cover
   - f/u cultures
   - Appreciate plastics and [**Doctor First Name **] recs, ID recs
   - monitor fever curve and wbc count
   - silvadine [**Hospital1 **]
   ARF: Stable. Did not respond to albumin.  Uric acid 4. UNa less than
   10. Likely prerenal. Fena 0.17. No evidence of hydronephrosis.  Also
   consider HRS as cause of prerenal, but BP higher than would expect. LOS
   fluid balance positive several liters and Cr not improving.  Also
   concerning for intrinsic renal diseae since has UA with uric acid
   crystals
   - will check uric acid level
   - monitor creatinine
   - renally dose meds
   - avoid nephrotoxins
   - IVFs to keep MAP> 65
   - check urine lytes today
   .
   Portal hypertension: [**Doctor First Name **] positive but low titier, Sm positive but low
   titer 1:20. HCV VL pending.
   - F/U Hep C viral load and genotype
   - lactulose to titrate to BMs TID
   - will continue nadolol
   - monitor LFTs
   - appreciate liver recs
   - will check HIV test
   DM: Fairly well controlled. continue ISS
   .
   HTN: hold nifedipine in setting of acute bleed, will continue with
   nadolol. Will likely start nifedipine in the AM.
   .
   FEN: ADAT, NPO at MN, replete lytes PRN, IVFs
   .
   PPX: PPI, pneumoboot, will start hep SC and hold tonght for procedreu.
   bowel reg prn
   ACCESS: 2 large bore IVs
   .
   CODE: FUll
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-9-2**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2104-9-5**] 12:13 ------

2104-09-05 11:43:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, right leg cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Debridement of wound today with frank pus seen, VAC placed. LENI
   negative. Called out and waiting for bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-9-4**] 08:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-9-5**] 03:41 AM
   Piperacillin - [**2104-9-5**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-9-5**] 08:16 AM
   Fentanyl - [**2104-9-5**] 11:05 AM
   Other medications:
   silvadene, nadolol, protonix, tylenol, fentanyl, +
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-9-5**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.4
   HR: 68 (67 - 98) bpm
   BP: 154/71(69) {103/31(36) - 163/80(100)} mmHg
   RR: 13 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,256 mL
                                                                    275 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    706 mL
                                                                    275 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,805 mL
                                                                    555 mL
   Urine:
                                                                  1,325 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -549 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, VAC along right leg
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   413 K/uL
   200 mg/dL
   1.9 mg/dL
   17 mEq/L
   5.0 mEq/L
   52 mg/dL
   109 mEq/L
   133 mEq/L
   27.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2104-9-2**]  06:38 PM
                             [**2104-9-2**]  11:30 PM
                             [**2104-9-3**]  04:39 AM
                             [**2104-9-3**]  09:55 AM
                             [**2104-9-3**]  02:11 PM
                             [**2104-9-4**]  03:42 AM
                             [**2104-9-4**]  10:18 AM
                             [**2104-9-4**]  05:50 PM
                             [**2104-9-5**]  03:17 AM
   WBC
   14.3
   13.7
   11.0
   10.9
   9.9
   9.4
   Hct
   33.3
   30.8
   29.2
   31.9
   30.0
   27.2
   31.5
   28.7
   27.0
   Plt
   548
   574
   521
   568
   444
   413
   Cr
   1.9
   1.9
   1.9
   Glucose
   116
   135
   200
   Other labs: PT / PTT / INR:15.1/30.7/1.3, ALT / AST:14/33, Alk Phos / T
   Bili:105/1.0, Differential-Neuts:66.4 %, Lymph:26.8 %, Mono:5.6 %,
   Eos:0.5 %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:210 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   stable hct, two large bore IV's, continue sucralfate, and PPI. Will
   need repeat EGD in few days.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   stable, urine lytes, didnot respond to albumin. Will send urine lytes.
   Spot protein creatinine.
 CIRRHOSIS OF LIVER, OTHER:
   f/u serologies, [**Doctor First Name **] positive at low titre, HCV viral load pending. Most
   consistent with HCV cirrhosis.
 DIABETES MELLITUS (DM), TYPE II:
   HISS.
 Cellulits:
   f/u skin biopsy path, and culture data from OR, cryoglobulin. Continue
   wound care.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2104-9-5**] 10:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor